US06329392B1
Combine (R, R)-di-p-anisoyltartaric acid (0.8 g, 19 mmol) and aqueous 12 M hydrochloric acid solution (0.16 mL, 19 mmol) in water/methanol (10 mL)/(10 mL). Heat to reflux. Add dropwise, a solution of 3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (1.0 g, 38.5 mmol) in methanol (10 mL). After 15 minutes, slowly cool to ambient temperature. Filter the solid that forms and rinse with water to give (+)-3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (R, R)-di-p-anisoyltartaric acid-hydrochloric acid salt: mp; 201-204° C. (dec). Analysis by HPLC, as described in Example 14.1.1 indicates an enantiomeric excess of 97%, (97% ee).

reactant | (R, R)-di-p-anisoyltartaric acid | 19 mmol, 0.8 g | C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O | C20H18O10
reactant | hydrochloric acid | 19 mmol, 12 M, 0.16 mL | Cl | ClH
reactant | 3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine | 38.5 mmol, 1.0 g | ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | C12H15Cl2NO
solvent | water methanol | O.CO
solvent | methanol | 10 mL | CO | CH4O
product | (+)-3-(3,4-dichloro-phenyl)-3-(2-hydroxy-ethyl)-pyrrolidine (R, R)-di-p-anisoyltartaric acid-hydrochloric acid salt | Cl.C(C1=CC=C(C=C1)OC)(=O)[C@@]([C@@](C(=O)O)(O)C(C1=CC=C(C=C1)OC)=O)(O)C(=O)O.ClC=1C=C(C=CC1Cl)C1(CNCC1)CCO | InChI=1S/C20H18O10.C12H15Cl2NO.ClH/c1-29-13-7-3-11(4-8-13)15(21)19(27,17(23)24)20(28,18(25)26)16(22)12-5-9-14(30-2)10-6-12;13-10-2-1-9(7-11(10)14)12(4-6-16)3-5-15-8-12;/h3-10,27-28H,1-2H3,(H,23,24)(H,25,26);1-2,7,15-16H,3-6,8H2;1H/t19-,20-;;/m1../s1
